US05331007
To a solution of 1-phenyl-2-[4-(phenylmethoxy) phenyl)-2-propylamine (3.50 g, 0.011 mol) in methanol (100 mL), tetrahydrofuran (50 mL) and 1N hydrochloric acid (20 mL) was added 5% palladium on carbon (0.8 g) and themixture was shaken on a Parr apparatus at approximately 40 psi for 6 h. Thecatalyst was removed by filtration and the solvent removed under vacuum. Crystallization from 2-propanol and ether and vacuum drying at 80° C. for 48 h provided 1.3 g of 1-phenyl-2-(4-hydroxyphenyl)-2-propylamine hydrochloride; mp 160°-161° C.

reactant | 1-phenyl-2-[4-(phenylmethoxy) phenyl)-2-propylamine | 0.011 mol, 3.50 g | C1(=CC=CC=C1)CC(C)(C1=CC=C(C=C1)OCC1=CC=CC=C1)N | C22H23NO
reactant | hydrochloric acid | 1N, 20 mL | Cl | ClH
solvent | methanol | 100 mL | CO | CH4O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 0.8 g | [Pd] | Pd
product | 1-phenyl-2-(4-hydroxyphenyl)-2-propylamine hydrochloride | 1.3 g | Cl.C1(=CC=CC=C1)CC(C)(C1=CC=C(C=C1)O)N | InChI=1S/C15H17NO.ClH/c1-15(16,11-12-5-3-2-4-6-12)13-7-9-14(17)10-8-13;/h2-10,17H,11,16H2,1H3;1H
